US08242145B2
Step 1: {4-Methoxy-3-[2-(2-oxo-oxazolidin-3-ylmethyl)-4-phenylacetylamino-phenoxy]-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 100, Step 1, using the following starting materials: {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and phenylacetyl chloride.

reactant | {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN1C(OCC1)=O)=O | C21H24N2O6
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | {4-Methoxy-3-[2-(2-oxo-oxazolidin-3-ylmethyl)-4-phenylacetylamino-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(CC1=CC=CC=C1)=O)CN1C(OCC1)=O)=O | C29H30N2O7
